US07514468B2
N-acetyl-4-(2-diethylamino-ethyl-sulphonyl)-aniline
9.0 g of 4-acetamido-phenylsulphinic acid are dissolved in 10 ml of water and 45 ml of 1N sodium hydroxide solution and 9.47 g of 2-chlorotriethylamine hydrochloride are added. The mixture is stirred for 5 hours at reflux temperature. After cooling, sodium hydroxide solution is added until an alkaline reaction is obtained, the mixture is extracted with ethyl acetate, dried over magnesium sulphate and finally the solvent is eliminated.

reactant | 4-acetamido-phenylsulphinic acid | 9.0 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)O | C8H9NO3S
reactant | sodium hydroxide | 1N, 45 ml | [OH-].[Na+]
reactant | 2-chlorotriethylamine hydrochloride | 9.47 g | CCN(CC)CCCl.Cl
solvent | water | 10 ml | O | H2O
product | N-acetyl-4-(2-diethylamino-ethyl-sulphonyl)-aniline | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)CCN(CC)CC | C14H22N2O3S
